US04509970
Following the procedure of Example 2, P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic chloride is reacted with methyl 2-hydroxyimino-2-phenylacetate (357 mg, 1.5 eq.) in methylene chloride, with stirring at RT for 24 hours. The reaction is worked up and purified as in Example 2 to give methyl 2-[P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]-2-phenylacetate.

reactant | P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic chloride | C(C)P(=O)(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])Cl | C15H11Cl2F3NO4P
reactant | methyl 2-hydroxyimino-2-phenylacetate | 357 mg, 1.5 eq. | ON=C(C(=O)OC)C1=CC=CC=C1 | C9H9NO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 2-[P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinyloxyimino]-2-phenylacetate | C(C)P(=O)(ON=C(C(=O)OC)C1=CC=CC=C1)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C24H19ClF3N2O7P
